US09216173B2
This example describes the conversion of (A6) to (A7) as illustrated in Scheme 1. To a solution of 2-amino-4,6-dimethylpyridine (30.4 g, 249 mmol) in THF (200 mL) at 0° C. was added potassium tert-butoxide (1.0 M in THF, 249 mL, 250 mmol) at such a rate to keep the internal temperature less then 10° C. After the addition was complete, the reaction mixture was stirred for 10 min, and then ˜60% of the reaction mixture was transferred via cannula to a cooled solution of 5-bromo-2-cyano-3-fluoropyridine (Manchester Organics, Ltd.; CAS: 886373-28-0, Runcorn, UK) (25.0 g, 124 mmol) in THF (200 mL). The reaction mixture was analyzed by LC which indicated near-complete consumption of the 5-bromo-2-cyano-3-fluoropyridine. The reaction mixture was diluted with water (400 mL) followed by hydrochloric acid (1.0 M in water, 50 mL, 50 mmol), and the resulting mixture was filtered. The collected solids were washed with water (2×50 mL). After 2 hours, the filtrate was filtered. The two collections of solids were combined, diluted with 4:1 hexanes/ethyl acetate (400 mL), and stirred. After 30 minutes, the mixture was filtered to afford 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile. MS ESI calc'd. for C13H12BrN4 [M+H]+ 303 and 305. found 303 and 305. 1H NMR (600 MHz, CD3OD) δ 8.89 (d, J=2.4 Hz, 1H), 8.24 (d, J=1.8 Hz, 1H), 6.71 (s, 1H), 6.68 (s, 1H), 2.37 (s, 3H), 2.27 (s, 3H).

reactant | 2-amino-4,6-dimethylpyridine | 249 mmol, 30.4 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | potassium tert-butoxide | 250 mmol, 1.0 M, 249 mL | CC(C)([O-])C.[K+]
reactant | 5-bromo-2-cyano-3-fluoropyridine | 124 mmol, 25.0 g | BrC=1C=C(C(=NC1)C#N)F | C6H2BrFN2
reactant | hydrochloric acid | 50 mmol, 1.0 M, 50 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile | BrC=1C=C(C(=NC1)C#N)NC1=NC(=CC(=C1)C)C | C13H11BrN4
